US06387911B1
2-(2,2,2-Trifluoroethoxy)-5-chlorobenzylamine
To a solution of 2-(2,2,2-trifluoroethoxy)-5-chlorobenzyl azide (1.76 g, 6.63 mmol) in THF (20 mL) was added triphenylphosphine (2 g, 7.63 mmol). After stirring at room temperature for 2 h, water (0.5 mL) was added and the reaction mixture then heated at 65° C. for 2 h. After cooling back to room temperature the solvents were removed under reduced pressure. Following azeotroping with benzene, the residue was dissolved in ether and treated with an excess of cold 1M HCl in ether. The hydrochloride salt of the title compound was filtered off and washed well with ether and dichloromethane. Drying gave a white powder: 1H NMR (CD3OD) δ7.46 (m, 2H), 7.18 (d, J=8.4 Hz, 1H), 4.70 (q, J=8.4 Hz, 2H), 4.14 (s, 2H).

reactant | 2-(2,2,2-trifluoroethoxy)-5-chlorobenzyl azide | 6.63 mmol, 1.76 g | FC(COC1=C(CN=[N+]=[N-])C=C(C=C1)Cl)(F)F | C9H7ClF3N3O
reactant | triphenylphosphine | 7.63 mmol, 2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.5 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2,2,2-Trifluoroethoxy)-5-chlorobenzylamine | FC(COC1=C(CN)C=C(C=C1)Cl)(F)F | C9H9ClF3NO
